US08168668B2
12) 1-[4-(2,2,2-trifluoroethoxy)phenyl]ethanamine
The title compound was synthesised according to the procedure described for the synthesis of 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine, step B, starting from 4-(2,2,2-trifluoroethoxy)benzonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.28-7.34 (m, 2 H) 6.94-7.00 (m, 2 H) 4.70 (q, J=8.78 Hz, 2 H) 3.95 (q, J=6.53 Hz, 1 H) 1.21 (d, J=6.78 Hz, 3 H). MS (ESI) m/z: 220 [M+H]

reactant | 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine | FC(COC1=CC=C(C=N1)C(C)N)(F)F | C9H11F3N2O
reactant | 4-(2,2,2-trifluoroethoxy)benzonitrile | FC(COC1=CC=C(C#N)C=C1)(F)F | C9H6F3NO
product | 1-[4-(2,2,2-trifluoroethoxy)phenyl]ethanamine | FC(COC1=CC=C(C=C1)C(C)N)(F)F | C10H12F3NO
